US08877782B2
N-(2-Acetylamino-ethyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 191, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.65 mmol) was converted, using N-acetylethylendiamine instead of 2-aminoethyl isopropylether, to the title compound (170 mg, 67%) which was obtained as a white solid. MS: m/e=395.1 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.65 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | N-acetylethylendiamine | C(C)(=O)NCCN | C4H10N2O
product | N-(2-Acetylamino-ethyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 170 mg, 67% | C(C)(=O)NCCNC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C21H22N4O4
